US07541458B2
Racemic (±)-Cis-N-t-butoxycarbonyl-3-diphenylmethylsilyloxy-4-phenyl-azetidin-2-one
To a solution of racemic (±)-cis-3-hydroxy-4-phenyl-azetidin-2-one (4.5 g, 27.8 mmol) in THF (70 mL) under nitrogen was added triethylamine (8.4 g, 83.4 mmol), DMAP (100 mg, 0.83 mmol) and cooled to 0° C. Diphenylmethylsilyl chloride (7.1 g, 30.6 mmol) was added dropwise and the mixture was stirred at 0° C. for 30 min until complete disappearance of the starting material as shown by TLC eluting with 3:1 mixture of ethyl acetate and heptane. Di-tert-butyldicarbonate (Boc2O, 6.68 g, 30.6 mmol) was added and the mixture was stirred at ambient temperature for 3 h for complete conversion to the desired product as shown by TLC (3:1 ethyl acetate:heptane). The mixture was diluted with heptane (150 mL) and filtered through silica gel (20 g) and the filtrate was concentrated to a solid. The solid was recrystallized from heptane (150 mL) to give a white powder (9.5 g, 74%). Mp 98° C., 1H NMR (400 MHz, CDCl3) δ (ppm): 0.46 (s, 3H), 1.39 (s, 9H), 4.94 (d, J=5.5 Hz, 1H), 5.04 (d, J=5.5 Hz, 1H), 7.2 to 7.4 (m 15H).

reactant | racemic (±)-cis-3-hydroxy-4-phenyl-azetidin-2-one | 27.8 mmol, 4.5 g | O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C9H9NO2
reactant | triethylamine | 83.4 mmol, 8.4 g | C(C)N(CC)CC | C6H15N
reactant | Diphenylmethylsilyl chloride | 30.6 mmol, 7.1 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SiH2]Cl | C13H13ClSi
reactant | Di-tert-butyldicarbonate | 30.6 mmol, 6.68 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 70 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.83 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Racemic (±)-Cis-N-t-butoxycarbonyl-3-diphenylmethylsilyloxy-4-phenyl-azetidin-2-one | C(C)(C)(C)OC(=O)N1C([C@H]([C@H]1C1=CC=CC=C1)O[SiH2]C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H29NO4Si
